US03987047
9-Amino-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester was prepared from 9-nitro-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester by reduction with nascent hydrogen, generated in situ by concentrated hydrochloric acid and tin(II)chloride, at a temperature of 60°-80° C.

reactant | 9-nitro-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester | C(C)OC(=O)N1CCC2=NC=3C=CC(=CC3C(=C2CC1)C)[N+](=O)[O-] | C17H19N3O4
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | Cl | ClH
reactant | tin(II)chloride | [Sn](Cl)Cl
product | 9-Amino-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester | Yield: 95% | C(C)OC(=O)N1CCC2=NC=3C=CC(=CC3C(=C2CC1)C)N | C17H21N3O2
